US05162326
6-Ethoxy-3-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
6-Chloro-3-propyl-1-[[2'-(N-trityltetrazol-5-yl)-biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.8 g) was dissolved in a solution of sodium metal (69 mg) in ethanol (10 mL) and the mixture was heated under reflux for 14 hours with stirring. The reaction mixture was concentrated to dryness and the resulting residue was dissolved in methylene chloride-water. The solution was acidified with 1N hydrochloric acid (1.5 ml), extracted and the organic layer was separated. The organic layer was washed with water, dried, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give white amorphous powders (0.36 g, 69%). M.p. 108°-119° C.

reactant | 6-Chloro-3-propyl-1-[[2'-(N-trityltetrazol-5-yl)-biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.8 g | ClC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCC)=O | C40H33ClN6O2
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | sodium | 69 mg | [Na] | Na
product | 6-Ethoxy-3-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.36 g, 69% | C(C)OC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)CCC)=O | C23H24N6O3
